US07351833B2
Allyl-(5,6-dichloro-pyridin-3-yl)-(2,2-dimethoxy-ethyl)-amine (Compound 6E)
To a mixture of (5,6-dichloro-pyridin-3-yl)-(2,2-dimethoxy-ethyl)-amine (190 g), allyl bromide (137.4 g), and methyl tributyl ammonium chloride (23.8 g) in methyl tert-butyl ether (1140mL) was added 50% aqueous sodium hydroxide (665 mL). This was then stirred at 25–35° C. for about 24 hours. Then water (375 g) and methyl tert-butyl ether (280 g) were added and then the layers were separated. The organic layer was washed with 10 mM potassium phosphate dibasic/10 mM potassium phosphate monobasic aqueous solution (3×1000 mL), and then washed with 20% aqueous sodium chloride (1000 mL). The solution was concentrated to a small volume and then dissolved back up in tetrahydrofuran (1720 g). 1H NMR (400 MHz/CDCl3) δ 7.79 (d, J=3.02 Hz, 1H), 7.10 (d, J=3.02 Hz, 1H), 5.81–5.70 (m, 1H), 5.20 (ddd, J=1.78, 3.02 10.43 Hz, 1H), 5.09 (ddd, J=1.9, 3.2, 17.1 Hz, 1H). 4.48 (t, J=5.1 Hz, 1H), 4.00–3.95 (m, 2H), 3.43 (d, J=5.1, 2H), 3.41 (s, 6H).

reactant | (5,6-dichloro-pyridin-3-yl)-(2,2-dimethoxy-ethyl)-amine | 190 g | ClC=1C=C(C=NC1Cl)NCC(OC)OC | C9H12Cl2N2O2
reactant | allyl bromide | 137.4 g | C(C=C)Br | C3H5Br
reactant | sodium hydroxide | 665 mL | [OH-].[Na+]
reactant | water | 375 g | O | H2O
catalyst | methyl tributyl ammonium chloride | 23.8 g | [Cl-].C[N+](CCCC)(CCCC)CCCC
solvent | methyl tert-butyl ether | 1140mL | C(C)(C)(C)OC | C5H12O
solvent | methyl tert-butyl ether | 280 g | C(C)(C)(C)OC | C5H12O
product | Allyl-(5,6-dichloro-pyridin-3-yl)-(2,2-dimethoxy-ethyl)-amine | C(C=C)N(CC(OC)OC)C=1C=NC(=C(C1)Cl)Cl | C12H16Cl2N2O2
